US06136825
Triethylamine (0.62 ml) was added to a cloudy solution of (S)-4-(aminomethyl)-1-(7-chloro-1,4-benzodioxan-2-ylmethyl)piperidine (0.44 g) and 4-acetamidobenzenesulphonyl chloride (0.65 g) in dichloromethane (22 ml) under nitrogen. The resulting solution was stirred for 20 hours, diluted with dichloromethane (100 ml) and washed with water (100 ml) and brine (100 ml). After drying over anhydrous magnesium sulphate, the mixture was concentrated under reduced pressure to afford an orange oil. Purification by flash chromatography on silica gel eluting with a 15:1 mixture of dichloromethane and methanol gave an orange gum. Trituration with diethyl ether (20 ml) yielded (S)-(-)-4-acetamido-N-{[1-(7-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}benzenesulphonamide as a pale orange solid (0.34 g); m.p. 173-176° C., [α]D22 -39.3° (c=0.37, MeOH).

reactant | Triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | (S)-4-(aminomethyl)-1-(7-chloro-1,4-benzodioxan-2-ylmethyl)piperidine | 0.44 g | NCC1CCN(CC1)C[C@H]1COC2=C(O1)C=C(C=C2)Cl | C15H21ClN2O2
reactant | 4-acetamidobenzenesulphonyl chloride | 0.65 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-(-)-4-acetamido-N-{[1-(7-chloro-1,4-benzodioxan-2-ylmethyl)-4-piperidyl]methyl}benzenesulphonamide | 0.34 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCC1CCN(CC1)C[C@H]1COC2=C(O1)C=C(C=C2)Cl | C23H28ClN3O5S
